Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine
 
Attending: ___.
 
Chief Complaint:
#Cough
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with DM2 on insulin who presents with cough for 3d. Reports 
sore throat, productive cough with green sputum. Denies f/c, cp, 
n/v. Normal po intake. Per report she did not take her insulin 
today because she wasnt feeling well. Her symptoms remind her of 
when she has PNA in the beginnign of ___.  
In the ED intial vitals were: 98.7 108 151/55 22 98%  
Labs notable for BG 667 Cr 1.6 (baseline 1.2-1.5) anion gap =15 
VBG pH 7.39 pCO2 52 pO2  
CXR showed Streaky bibasilar opacities most likely reflective of 
atelectasis  
she was given albuterol nebs, 10 of humalog  
plan to admit pt for cough and hyperglycemia  
On the floor she says she feels better but still has a cough  

 
Past Medical History:
DM2, HTN, Hyperlipidemia, Depression, Anxiety, Iron Deficiency 
Anemia, GERD, Chronic Back Pain, Insomnia.

Tongue cancer, sees specialist at ___, chronic anemia (per pt 
she has had since she was a little girl, h/o stomach ulcers 
years ago.

 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals- 100.3 141/43 105 16 97%RA  
General- Alert, oriented, coughing  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- lots of cough on exam, slightly decr breath sounds no 
wheeze or crackles  
CV- slightly tachycardic low 100s Regular rhythm, normal S1 + 
S2, no murmurs, rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema

DISCHARGE PHYSICAL EXAM:
Vitals- Tm 98.8  130s-140s/40s-60s  HR ___  RR ___  Sa02 
97% r/a
General- Alert, oriented, coughing  
HEENT- Sclera anicteric, MMM, oropharynx clear  
Neck- supple, JVP not elevated, no LAD  
Lungs- minimal cough today, minimal scattered coarse breath 
sounds and no crackles  
CV- RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen- soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU- no foley  
Ext- warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema 
 
Pertinent Results:
ADMISSION LABS:
___ 06:25PM BLOOD WBC-10.7# RBC-4.04* Hgb-12.3 Hct-40.2 
MCV-100*# MCH-30.5 MCHC-30.6* RDW-13.3 Plt ___
___ 06:25PM BLOOD Neuts-78.1* Lymphs-12.2* Monos-8.9 
Eos-0.4 Baso-0.4
___ 06:25PM BLOOD Glucose-677* UreaN-23* Creat-1.6* Na-130* 
K-4.5 Cl-91* HCO3-25 AnGap-19
___ 06:36PM BLOOD ___ pO2-33* pCO2-52* pH-7.39 
calTCO2-33* Base XS-4

==========================================================
DISCHARGE LABS
___ 06:10AM BLOOD WBC-12.2* RBC-4.00* Hgb-12.2 Hct-39.0 
MCV-97 MCH-30.5 MCHC-31.3 RDW-13.4 Plt ___
___ 06:10AM BLOOD Glucose-165* UreaN-17 Creat-1.0 Na-139 
K-4.5 Cl-102 HCO3-23 AnGap-19
==========================================================
IMAGING:
___ CXR
HISTORY:  Cough and dyspnea. 
TECHNIQUE:  PA and lateral views of the chest. 
COMPARISON:  ___. 
FINDINGS: The cardiac, mediastinal and hilar contours are within 
normal limits.  The pulmonary vasculature is normal.  Streaky 
opacities in the lung bases likely reflect atelectasis, and no 
focal consolidation is demonstrated.  There is no pleural 
effusion or pneumothorax.  There is evidence of prior 
vertebroplasty within a total body at the thoracolumbar 
junction. 
  
IMPRESSION: 
Streaky bibasilar opacities most likely reflective of 
atelectasis. 

----------
EKG:
Sinus tachycardia. Left atrial abnormality. Baseline artifact. 
Diffuse 
non-specific ST-T wave changes, new as compared to the previous 
tracing  
of ___, while the rate has increased. Clinical correlation 
is suggested.  
  

 
Brief Hospital Course:
___ F h/o IDDM presents with cough for 3 days, sore throat, and 
found to be hyperglycemic to 600s in the ER with ___. 

#Acute bronchitis versus community acquired pneumonia: 
Initially, thought to be acute viral bronchitis based on 
symptoms, lack of CXR findings consistent with PNA. However, 
gven that she was initially hypovolemic at the time of her CXR, 
we thought it possible that a consolidation had not 
radiographically developed yet. Her initial pneumonia severity 
index was intermediate with inpatient stay being appropriate. 
Because the risk of not treating a possible pneumonia seemed 
quite high, she was treated with azithromycin with a planned 5 
day course. Sputum gram stain showed 4+ GPCs and some GNC/GNRs 
as well. Culture preliminarily showed commensal respiratory 
flora. She had significant cough, wheezing, and dyspnea without 
hypoxemia requiring scheduled q6 hour nebulizers. She improved 
significantly by ___ AM from a respiratory status standpoint 
and was felt to be safe to discharge home with antibiotic course 
ending ___. 
    Given that this is her second admission for respiratory 
infection this year without a history of COPD, smoking, or 
fibrotic lung disease, there was some suspicion that she may 
have developed a chronic underlying process such as 
bronchiectasis that predisposes to infection. This requires 
ongoing outpatient evaluation potentially with PFTs vs chest CT 
at some point if she were to have ongoing respiratory 
complaints. She was prescribed a spacer to help optimize her 
outpatient MDI.
  
#Acute Kidney Injury: Cr 1.6 on admission from a baseline of 
~1.2. This is most likely pre-renal azotemia in the setting of 
poor PO intake, osmotic diuresis from hyperglycemia, and 
insensible losses with fever. Her sCr improved to baseline with 
IV fluids.

#Diabetes/Hyperglycemia: In the ER BS in the 600s. There was no 
elevated anion gap on labs. This was thought to be due to not 
taking her insulin the day of admission because she was feeling 
sick. While an inpatient her blood sugars were extremely hard to 
control. She varied between hypoglycemic to hyperglycemic 
throughout the day on her home regimen. Her outpatient HgbA1c 
has reflected poorly controlled diabetes. This may be due to 
labile blood sugars on her insulin regimen, not medication 
non-compliance, given that she was difficult to control while 
here. She was seen by ___ and ___ diabetic education RN. She 
had follow up appointments scheduled for ___. She was 
discharged on her outpatient Lantus and Humalog sliding scale.

Chronic Issues
--------------
# HTN: Losartan was held in the setting of ___, but was 
restarted at the time of discharge. HCTZ and Propranolol were 
continued.  

# Hyperlipidemia: Atorvastatin was continued

# Depression and Anxiety: Paroxetine and Buspirone were 
continued
 
# GERD: Ranitidine was continued

TRANSITIONAL ISSUES:
-Outpatient titration of her insulin regimen
-Monitoring of respiratory complaints with further workup if 
frequent, recurrent lower respiratory tract infections.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler 2 PUFF IH HS asthma 
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. BusPIRone 10 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium (Liquid) 100 mg PO BID 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Losartan Potassium 100 mg PO DAILY 
10. calcium carbonate-vitamin D3 500 mg(1,250mg) -200 unit Oral 
BID 
11. Paroxetine 40 mg PO DAILY 
12. Propranolol 20 mg PO BID 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Glargine 36 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
15. Furosemide 10 mg PO DAILY 
16. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH HS asthma 
2. Amlodipine 10 mg PO DAILY 
3. Atorvastatin 20 mg PO DAILY 
4. BusPIRone 10 mg PO TID 
5. Cyanocobalamin 1000 mcg PO DAILY 
6. Docusate Sodium (Liquid) 100 mg PO BID 
7. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
8. Hydrochlorothiazide 25 mg PO DAILY 
9. Paroxetine 40 mg PO DAILY 
10. Ranitidine 150 mg PO DAILY 
11. Propranolol 20 mg PO BID 
12. calcium carbonate-vitamin D3 500 mg(1,250mg) -200 unit Oral 
BID 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Furosemide 10 mg PO DAILY 
15. Losartan Potassium 100 mg PO DAILY 
16. Multivitamins W/minerals 1 TAB PO DAILY 
17. Glargine 36 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
18. Azithromycin 250 mg PO Q24H Duration: 2 Days 
final day of 5 day course is ___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*2 
Tablet Refills:*0
19. Omeprazole 20 mg PO DAILY 
20. Spacer for metered dose inhaler

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
#Acute bronchitis versus community acquired pneumonia
#Hyperglycemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, it was a pleasure to be part of your care at 
___. You were admitted for concern for pneumonia and for very 
high blood sugar. We suspect that your cough and shortness of 
breath is due to an infection of the lungs. A sputum culture 
grew a few types of bacteria, so this may represent a pneumonia. 
You were treated with antibiotics (azithromycin) and will 
continue to take this medication through ___. We gave you 
breathing treatments with nebulizers to help open your airways 
and improve your breathing. At home, you will continue to use 
albuterol as needed with a spacer which we showed you how to use 
in the hospital. 
   Also, when you were admitted your blood sugar was dangerously 
high, likely because of a missed insulin dose, but severe 
illness can raise blood sugars too. We think high sugars and 
your respiratory infection caused you to become dehydrated. We 
gave you IV fluids to improve your hydration. We had doctors 
___ come see you to discuss your diabetes because 
your blood sugars were very high and very low during this 
admission. They would like you to follow up in clinic (SEE 
BELOW).   
 
Followup Instructions:
___